US05591855
Preparation of 3-(2-Cyanoethenyl)-5H,6H,12H,13H-indeno[2,3-a]pyrrolo[3,4-c]carbazole-7(7H)-one (Compound I-35)
To a solution of 3-bromo-5H,6H,12H,13H-indeno[2,3-a]pyrrolo[3,4-c]carbazole-7(7H)one (Compound I-9) (100 mg, 0.26 mmol), cyanoacrylate (0.43 ml, 0.51 mmol) and triethylamine (0.5 mL) in DMF (3 mL) was added tetrakis(triphenylphosphine)palladium(0) (20 mg). The solution was heated in a sealed reaction tube at 100°-110° C. for 48 h. The mixture was cooled to ambient temperature, filtered through a pad of Celite®, and the solvent was concentrated at reduced pressure. The product was triturated with MeOH to give 90 mg (97%) of a tan solid. Recrystallization from DMF-Et2O gave Compound I-35 as a tan solid, mp>330° C. 1H NMR (DMSO-d6, 300 MHz): d 4.2 (s, 2H), 5.0 (s, 2H), 7.3-7.5 (m, 3H), 7.6-7.95 (m,4H), 8.35 (s, 1H), 8.65 (s, 1H), 9.4 (d, 1H, J=9 Hz), 12.25 (s, 1H); IR: 2220 cm-1 ; MS m/e=362 (m+1)+.

reactant | 3-bromo-5H,6H,12H,13H-indeno[2,3-a]pyrrolo[3,4-c]carbazole-7(7H)one | 0.26 mmol, 100 mg | BrC1=CC2=C(C=C1)CC1=C2C2=C(C=3C4=CC=CC=C4NC13)C(NC2)=O | C21H13BrN2O
reactant | cyanoacrylate | 0.51 mmol, 0.43 ml | C(#N)OC(C=C)=O | C4H3NO2
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-Cyanoethenyl)-5H,6H,12H,13H-indeno[2,3-a]pyrrolo[3,4-c]carbazole-7(7H)-one | 90 mg, 97% | C(#N)C=CC1=CC2=C(C=C1)CC1=C2C2=C(C=3C4=CC=CC=C4NC13)C(NC2)=O | C24H15N3O
